US04329460
In 200 ml. of glacial acetic acid is dissolved 1.38 g. of methyl 1-(2-tetrahydrofuryl)-1,2,3,4-tetrahydro-2,4-dioxopyrimidine-5-carboxylate and the fluorination is carried out at 18° C. to 24° C. using a gaseous mixture of fluorine (15 V/V %) and nitrogen. When the mixed gas equivalent to 2.2 moles of fluorine has been introduced, the absence of any residual starting material is confirmed by ultraviolet absorption spectrum. The solvent is then distilled off under reduced pressure to give a colorless syrup of methyl 6-acetoxy-5-fluoro-1-(2-tetrahydrofuryl)-1,2,3,4,5,6-hexahydro-2,4-dioxopyrimidine-5-carboxylate.

reactant | methyl 1-(2-tetrahydrofuryl)-1,2,3,4-tetrahydro-2,4-dioxopyrimidine-5-carboxylate | O1C(CCC1)N1C(NC(C(=C1)C(=O)OC)=O)=O | C10H12N2O5
reactant | fluorine | FF | F2
reactant | fluorine | 2.2 moles | FF | F2
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | methyl 6-acetoxy-5-fluoro-1-(2-tetrahydrofuryl)-1,2,3,4,5,6-hexahydro-2,4-dioxopyrimidine-5-carboxylate | C(C)(=O)OC1C(C(NC(N1C1OCCC1)=O)=O)(C(=O)OC)F | C12H15FN2O7
